US05659065
a1) 2(R)-[4-Methoxy-3-(3-methoxypropoxy)-benzyl]-3-methyl-butyl bromide
Triphenylphosphine (108.6 g) and, in portions, N-bromosuccinimide (73.7 g) are added in succession at 0° C., with stirring, to a solution of 2(R)-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-3-methyl-butanol (102.2 g) in dichloromethane (2 liters). The batch is stirred for a further 18 hours at room temperature and is then concentrated under reduced pressure. The residue is purified by means of FC on silica gel (ethyl acetate/hexane 1:4). The title compound (102.2 g) is obtained in the form of a white solid: m.p. 52-53° C. (recrystallised from diethyl ether/hexane). Rf (ethyl acetate/hexane 1:1)=0.56. Anal. C17H27BrO3 (359.30): calc. C, 56.83; H, 7.57; Br, 22.24; found C, 56.81; H, 7.34; Br, 22.06.

reactant | Triphenylphosphine | 108.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 73.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2(R)-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-3-methyl-butanol | 102.2 g | COC1=C(C=C(C[C@@H](CO)C(C)C)C=C1)OCCCOC | C17H28O4
solvent | dichloromethane | 2 liters | ClCCl | CH2Cl2
product | 2(R)-[4-Methoxy-3-(3-methoxypropoxy)-benzyl]-3-methyl-butyl bromide | 102.2 g | COC1=C(C=C(C[C@@H](CBr)C(C)C)C=C1)OCCCOC | C17H27BrO3
